US05011849
1.46 g (4.2 mmol) of t-butyl [2-(2-amino-5-phenyl-4-oxazolecarboxamido)ethyl]carbamate were dissolved in 50 ml of methylene chloride and treated with 5 ml of trifluoroacetic acid. The reaction mixture was heated to reflux while stirring for 2.5 hours and thereafter evaporated under reduced pressure. The residue was dissolved in methanol, treated with 5 ml of 2M methanolic hydrochloric acid and evaporated. Recrystallization of the residue from methanol/diethyl ether yielded 1.3 g (94%) of 2-amino-N-(2-aminoethyl)-5-phenyl-4-oxazolecarboxamide dihydrochloride as white crystals, melting point 260°.

reactant | t-butyl [2-(2-amino-5-phenyl-4-oxazolecarboxamido)ethyl]carbamate | 4.2 mmol, 1.46 g | NC=1OC(=C(N1)C(=O)NCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H22N4O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-N-(2-aminoethyl)-5-phenyl-4-oxazolecarboxamide dihydrochloride | 1.3 g, 94% | Cl.Cl.NC=1OC(=C(N1)C(=O)NCCN)C1=CC=CC=C1 | InChI=1S/C12H14N4O2.2ClH/c13-6-7-15-11(17)9-10(18-12(14)16-9)8-4-2-1-3-5-8;;/h1-5H,6-7,13H2,(H2,14,16)(H,15,17);2*1H
